US08222416B2
To a solution of 1-(-benzenesulfonyl-6-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanol (1.39 g, 3.47 mmol) in dichloromethane (15 mL) was added Dess-Martin periodinane (5.15 g, 12.15 mmol) at 25° C. The reaction mixture was stirred at 25° C. for 1 h and then quenched with a saturated aqueous sodium bicarbonate solution (60 mL). The mixture was extracted with ethyl acetate (250 mL), washed with a saturated aqueous sodium bicarbonate solution (3×50 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. The residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, 18% ethyl acetate/hexanes) afforded 1-(-benzenesulfonyl-6-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanone (0.59 g, 42%) as a light yellow solid: LC/MS m/e calcd for C21H22N2O4S [M+H]+ 399.48, observed 399.1.

reactant | 1-(-benzenesulfonyl-6-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanol | 3.47 mmol, 1.39 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC(=CC2)OC)C(CC2CCCC2)O | C21H24N2O4S
reactant | Dess-Martin periodinane | 12.15 mmol, 5.15 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-(-benzenesulfonyl-6-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanone | 0.59 g, 42% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC(=CC2)OC)C(CC2CCCC2)=O | C21H22N2O4S
